US08859580B2
(1H-Benzoimidazol-5-yl)-[(2R,6R,11S)-6,11-dimethyl-8-[1,2,4]oxadiazol-3-yl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl]-methanone
A mixture of triethyl orthoformate (4 mL) and (2R,6R,11S)-3-(1H-benzoimidazole-5-carbonyl)-N-hydroxy-6,11-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocine-8-carboxamidine (0.25 g) is stirred at 100° C. for 6 h. After cooling to room temperature, the mixture is concentrated and the residue is purified by HPLC on reversed phase (water/MeCN/NH3) to give the title compound as a white solid.

reactant | triethyl orthoformate | 4 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | (2R,6R,11S)-3-(1H-benzoimidazole-5-carbonyl)-N-hydroxy-6,11-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocine-8-carboxamidine | 0.25 g | N1C=NC2=C1C=CC(=C2)C(=O)N2[C@@H]1CC3=C([C@](CC2)([C@@H]1C)C)C=C(C=C3)C(=N)NO | C23H25N5O2
product | (1H-Benzoimidazol-5-yl)-[(2R,6R,11S)-6,11-dimethyl-8-[1,2,4]oxadiazol-3-yl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocin-3-yl]-methanone | N1C=NC2=C1C=CC(=C2)C(=O)N2[C@@H]1CC3=C([C@](CC2)([C@@H]1C)C)C=C(C=C3)C3=NOC=N3 | C24H23N5O2
